US06936632B2
b) Methyl 1-(4-chlorophenyl)-2-(4-sulphamoylphenyl)-6,7-dihydro-5H-pyrrolizine-3-carboxylate
Methyl 2-(4-chlorophenyl)-1-phenyl-6,7-dihydro-5H-pyrrolizine-3-carboxylate (4.0 g, 11.4 mmol) is dissolved in dichloroethane (40 ml), and the solution is cooled to 0-5° C. in an ice bath. A solution of chlorosulphonic acid (2.0 g, 17.3 mmol) in dichloroethane (20 ml) is slowly added dropwise to this (IT<10° C., 15 min) and the mixture is then stirred at RT for 12 h. A solution of NH3 in dichloroethane (40 ml) saturated in the cold is added, and the mixture is stirred at RT for a further 12 h. It is then treated (pH 9) with water (20 ml), and the organic phase is separated in a separating funnel. Solid insoluble in water is filtered off from the aqueous phase with suction and dried in vacuo. The dried solid substance is crystallized from MeOH: 0.76 g (product A).

reactant | Methyl 2-(4-chlorophenyl)-1-phenyl-6,7-dihydro-5H-pyrrolizine-3-carboxylate | 11.4 mmol, 4.0 g | ClC1=CC=C(C=C1)C=1C(=C2CCCN2C1C(=O)OC)C1=CC=CC=C1 | C21H18ClNO2
reactant | chlorosulphonic acid | 17.3 mmol, 2.0 g | ClS(=O)(=O)O | ClHO3S
reactant | NH3 | N | H3N
reactant | water | 20 ml | O | H2O
reactant | dichloroethane | 40 ml | ClC(C)Cl | C2H4Cl2
reactant | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
reactant | dichloroethane | 40 ml | ClC(C)Cl | C2H4Cl2
product | Methyl 1-(4-chlorophenyl)-2-(4-sulphamoylphenyl)-6,7-dihydro-5H-pyrrolizine-3-carboxylate | ClC1=CC=C(C=C1)C=1C(=C(N2CCCC12)C(=O)OC)C1=CC=C(C=C1)S(N)(=O)=O | C21H19ClN2O4S
